US06326369B1
2,3-Dimethoxy-7-(2-phenoxyethyl)-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a solution of 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione (100 mg), phenol (109 mg), and triphenylphosphine (127 mg) in THF (2 ml) was added a solution of diethyl azodicarboxylate (82 mg) in THF (1 ml) at room temperature. The reaction mixture was stirred at room temperature for 140 min and concentrated. The residue was purified by alumina column chromatography (eluent:ethyl acetate/hexane=1/10) and then with recrystallization from ethyl acetate-hexane to obtain the entitled compound (78 mg).

reactant | 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 100 mg | OCCC1CCC2=C(CC1)C(C(=C(C2=O)OC)OC)=O | C15H20O5
reactant | phenol | 109 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 127 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 82 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2,3-Dimethoxy-7-(2-phenoxyethyl)-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 78 mg | COC1=C(C(C2=C(CCC(CC2)CCOC2=CC=CC=C2)C1=O)=O)OC | C21H24O5
